US07772271B2
Preparation of {4-[3-cyano-1-cyclobutyl-6-(3,4-dihydroxy-butoxy)-1H-indol-2-yl]-phenyl}-carbamic acid isopropyl ester (compound 1429)
To a solution of [4-(3-cyano-1-cyclobutyl-6-hydroxy-1H-indol-2-yl)-phenyl]-carbamic acid isopropyl ester (100 mg, 0.26 mmol) in DMF (3 mL) is added K2CO3 (43.2 mg, 0.312 mmole) and 4-nitrobenzenesulfonic acid 2-(2,2-dimethyl-[1,3]dioxolan-4-yl)-ethyl ester (129 mg, 0.39 mmole) and the reaction is stirred for 18 h at ambient temperature. The reaction mixture is then poured into cold water and the precipitate is collected by filtration and washed with EtOAc/hexane and dried in vacuo to afford 96 mg, 84% of the desired product, (4-{3-cyano-1-cyclobutyl-6-[2-(2,2-dimethyl-[1,3]dioxolan-4-yl)-ethoxy]-1H-indol-2-yl}carbamic acid isopropyl ester, compound 1428.

reactant | [4-(3-cyano-1-cyclobutyl-6-hydroxy-1H-indol-2-yl)-phenyl]-carbamic acid isopropyl ester | 0.26 mmol, 100 mg | C(C)(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)O)C1CCC1)=O | C23H23N3O3
reactant | K2CO3 | 0.312 mmole, 43.2 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-nitrobenzenesulfonic acid 2-(2,2-dimethyl-[1,3]dioxolan-4-yl)-ethyl ester | 0.39 mmole, 129 mg | CC1(OCC(O1)CCOS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C13H17NO7S
reactant | water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | {4-[3-cyano-1-cyclobutyl-6-(3,4-dihydroxy-butoxy)-1H-indol-2-yl]-phenyl}-carbamic acid isopropyl ester | 96 mg, 84% | C(C)(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCCC(CO)O)C1CCC1)=O | C27H31N3O5
